US07220862B2
(±)-2-Amino-3-(6-benzyloxy-pyridin-3-yl)-propionic acid methyl ester
To a stirred solution of 2-benzyloxycarbonylamino-3-(6-benzyloxy-pyridin-3-yl)-propionic acid methyl ester (130 mg, 0.31 mmol) in methylene chloride (5 mL, 0° C.) was added trimethylsilyl iodide (44 μL, 1.0 equiv). The ice bath was removed and stirring continued for 1 h. Reaction was poured into saturated sodium bicarbonate, extracted with ethyl acetate (3×), washed with brine, dried over magnesium sulfate, and concentrated to give 81 mg (91%) which was used without purification. Mass spec.: 287.37 (MH)+.

reactant | 2-benzyloxycarbonylamino-3-(6-benzyloxy-pyridin-3-yl)-propionic acid methyl ester | 0.31 mmol, 130 mg | COC(C(CC=1C=NC(=CC1)OCC1=CC=CC=C1)NC(=O)OCC1=CC=CC=C1)=O | C24H24N2O5
reactant | trimethylsilyl iodide | 44 μL, 1.0 equiv | C[Si](C)(C)I | C3H9ISi
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | (±)-2-Amino-3-(6-benzyloxy-pyridin-3-yl)-propionic acid methyl ester | COC(C(CC=1C=NC(=CC1)OCC1=CC=CC=C1)N)=O | C16H18N2O3
